US07531576B2
N-Pentanoyl-N-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]amine (1.61 g) was dissolved in tetrahydrofuran (40 mL) and at room temperature, lithium aluminum hydride (340.1 mg) was added, and then the mixture was heated under reflux. Ninety minutes later, water (5 mL), a 10% aqueous solution of sodium hydroxide (5 mL) and water (5 mL) were added successively under ice bath cooling. The organic layer was separated, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. As water remained to the residue, ethyl acetate was added to conduct extraction twice from the remaining water. The organic layer was dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to afford N-pentyl-N-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl] amine (1.57 g). Yield: 100%.

reactant | N-Pentanoyl-N-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]amine | 1.61 g | C(CCCC)(=O)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H35N5O
reactant | lithium aluminum hydride | 340.1 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5 mL | O | H2O
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | N-pentyl-N-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl] amine | 1.57 g, Yield: 100% | C(CCCC)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H37N5
